US06352993B1
6-methoxymethyl-5-methyl-2-(4-fluoro-2-methylphenylamino)-4-(1,2,3,4-tetrahydroisoquinolin-2-yl)pyrimidine hydrochloride
After 2-methyl-4-fluoroaniline(0.51 g, 4.5 mmol) and triethylamine (0.63 ml, 4.5 mmol) were added to a solution of 6-methoxymethyl-5-methyl-2-chloro-4-(1,2,3,4-tetrahydroisoquinolin-2-yl) pyrimidine(0.9 g, 3 mmol) in dimethylformamide (5 ml), 750 mg of the titled compound was obtained in accordance with the same procedure as in Step 2 of Example 25.

reactant | 2-methyl-4-fluoroaniline | 4.5 mmol, 0.51 g | CC1=C(N)C=CC(=C1)F | C7H8FN
reactant | triethylamine | 4.5 mmol, 0.63 ml | C(C)N(CC)CC | C6H15N
reactant | 6-methoxymethyl-5-methyl-2-chloro-4-(1,2,3,4-tetrahydroisoquinolin-2-yl) pyrimidine | 3 mmol, 0.9 g | COCC1=C(C(=NC(=N1)Cl)N1CC2=CC=CC=C2CC1)C | C16H18ClN3O
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 6-methoxymethyl-5-methyl-2-(4-fluoro-2-methylphenylamino)-4-(1,2,3,4-tetrahydroisoquinolin-2-yl)pyrimidine hydrochloride | 750 mg | Cl.COCC1=C(C(=NC(=N1)NC1=C(C=C(C=C1)F)C)N1CC2=CC=CC=C2CC1)C | InChI=1S/C23H25FN4O.ClH/c1-15-12-19(24)8-9-20(15)25-23-26-21(14-29-3)16(2)22(27-23)28-11-10-17-6-4-5-7-18(17)13-28;/h4-9,12H,10-11,13-14H2,1-3H3,(H,25,26,27);1H
